US05252560
4-Methoxy-1H-benz[f]isoindole-1,3-(2H)-dione (215 mg)
Prepared as described in Intermediate 33 from 4-methoxynaphtho[2,3-c]furan-1,3-dione (229 mg) and urea (120 mg). M.p. 216°-220°. NMR (DMSO-d6) δ 10.6 (1H, s), 7.52 (1H, d), 7.39 (1H, d), 7.34 (1H, s), 6.92 (2H, m), 3.43 (3H, s).

reactant | 4-methoxynaphtho[2,3-c]furan-1,3-dione | 229 mg | COC1=C2C=CC=CC2=CC=2C(OC(C21)=O)=O | C13H8O4
reactant | urea | 120 mg | NC(=O)N | CH4N2O
product | 4-Methoxy-1H-benz[f]isoindole-1,3-(2H)-dione | COC1=C2C(=CC=3C(NC(C13)=O)=O)C=CC=C2 | C13H9NO3
